US08664431B2
5 g (22 mmol) 2-hydroxy-9H-thioxanthen-9-one was dissolved in 100 acetone. 50 mg BHT, 10.6 g 77 (mmol) K2CO3 and 5.6 g (44 mmol) 3-chloropropionyl chloride were added. The mixture was refluxed for 3 hours. The salts were removed by filtration after cooling down to room temperature and the solvent was removed under reduced pressure. The residue was treated with 100 ml water and the crude 2-propenoic acid 9-oxo-9H-thioxanthen-2-yl ester was isolated by filtration. 2-propenoic acid 9-oxo-9H-thioxanthen-2-yl ester was further purified using preparative column chromatography on a Prochrom LC80 column, using Kromasil Si 60A 10μ as silica and methylene chloride as eluent at a flow rate of 150 ml/min. 1.16 g of 2-propenoic acid 9-oxo-9H-thioxanthen-2-yl ester (19%) was isolated. The isolated compound had a purity of 99%. This analysis was confirmed by 1H-NMR spectroscopy.

reactant | 2-hydroxy-9H-thioxanthen-9-one | 22 mmol, 5 g | OC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H8O2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloropropionyl chloride | 44 mmol, 5.6 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | acetone | CC(=O)C | C3H6O
product | 2-propenoic acid 9-oxo-9H-thioxanthen-2-yl ester | 1.16 g, 19% | O=C1C2=CC=CC=C2SC=2C=CC(=CC12)OC(C=C)=O | C16H10O3S
